US04302576
Cyclohexane was charged to a 26-oz. beverage bottle equipped with a perforated crown cap over a self-sealing rubber gasket, and the bottle and cyclohexane then purged with nitrogen. 1,3-Butadiene and tetrahydrofuran were added and then the n-butyllithium. The temperature was adjusted to 70° C. and the bottle and its contents tumbled in a constant temperature bath for one hour, after which time the 1,3-butadiene polymerization was essentially complete. Propylene oxide was then added to the polymerization reaction mixture and the mixture agitated for 10 minutes while reducing the temperature from 70° C. to 30° C. ε-Caprolactone was added and polymerization conducted at 30° C. for 10 minutes with continued agitation. Promptly 10 minutes after the ε-caprolactone had been charged, the polymerization reaction was terminated by adding 10 ml. of 0.1 M hydrochloric acid and thoroughly mixing the reaction mixture by hand-shaking the beverage bottle. One part by weight of 2,6-di-t-butyl-4-methylphenol per hundred parts by weight of total monomers was added as a 10 weight percent solution in 50:50 toluene:isopropanol and the contents of the bottle then emptied into a beaker of water and the butadiene-ε-caprolactone block copolymer isolated by steam stripping. The recovered polymer was dried at 60° C. for about 15 hrs. under reduced pressure. The calculated molecular weight of this polymer based on the relative amounts of initiator and monomers used was about 33,000.

reactant | Propylene oxide | C1C(C)O1 | C3H6O
reactant | ε-Caprolactone | C1(CCCCCO1)=O | C6H10O2
solvent | Cyclohexane | C1CCCCC1 | C6H12
product | butadiene ε-caprolactone | C=CC=C.C1(CCCCCO1)=O | InChI=1S/C6H10O2.C4H6/c7-6-4-2-1-3-5-8-6;1-3-4-2/h1-5H2;3-4H,1-2H2
